US04152326
50 g. 1,1-Cyclohexane-diacetic anhydride was introduced portionwise, while stirring, into an aqueous solution of hydroxylamine, prepared from 23.4 g. hydroxylamine hydrochloride and 21.12 g. sodium carbonate. After completion of the addition, the reaction mixture as heated for 2 hours at 70° C.; an oil separated out. After cooling, the pH was adjusted to 2 with 2N hydrochloric acid and the crystalline precipitate was filtered off with suction. The precipitate was washed with water, taken up in methanol, any undissolved material was removed and, after the addition of water, it was evaporated in a vacuum. There was obtained 45.5 g of 1,1-cyclohexane-diacetic acid N-hydroxyimide; m.p. 104° C.

reactant | 1,1-Cyclohexane-diacetic anhydride | C12(CCCCC1)CC(=O)OC(C2)=O | C10H14O3
reactant | hydroxylamine | NO | H3NO
reactant | hydroxylamine hydrochloride | Cl.NO
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
product | 1,1-cyclohexane-diacetic acid N-hydroxyimide | 45.5 g | ON=C(CC1(CCCCC1)CC(=O)O)O | C10H17NO4
